US05780669
Ethyl 2-chloro-2-fluoro-1-cyclopropanecarboxylate
16.9 mg of tetrakis(triphenylacetato) dirhodium was added to 10 ml of dichloromethane and dissolved therein. Then 370 mg of powdery Molecular Sieves 4A was added thereto. The reaction container was soaked in a dry ice/acetone bath and 1.0 g of 1-chloro-1-fluoroethylene was dissolved in the mixture. While maintaining the temperature of this solution at -35° C. to -40° C., 5.3 ml of a solution of 2.5 mmol of ethyl diazoacetate in dichloromethane was dropped thereinto under an argon gas atmosphere. The addition was made in such a manner that a half of the solution was dropped within 15 minutes and another half was dropped within 30 minutes. After the completion of the addition, the reaction mixture was slowly returned to room temperature. When analyzed by gas chromatography, it was found out that the reaction conversion ratio was 100%, the yield was 91% and the ratio of cis:trans was 1.59:1.0. The analytical data of the title product are as follows.

reactant | 1-chloro-1-fluoroethylene | 1.0 g | ClC(=C)F | C2H2ClF
reactant | ethyl diazoacetate | 2.5 mmol | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Ethyl 2-chloro-2-fluoro-1-cyclopropanecarboxylate | yield was 91% | ClC1(C(C1)C(=O)OCC)F | C6H8ClFO2
